US08865748B2
Preparation of 5-(3-fluorophenyl)-3-methoxy-2-cyanopyridine (9):
To a 500 mL round bottom flask adapted for magnetic stirring and fitted with a reflux condenser and nitrogen inlet is charged 5-(3-fluorophenyl)-3-chloro-2-cyanopyridine, 8, (9.28 g, 40 mmol), sodium methoxide (13.8 mL, 60 mmol) and methanol (200 mL). With stirring, the reaction solution is heated to reflux for 20 hours. The reaction can be determined to be complete due to the disappearance of 5-(3-fluorophenyl)-3-chloro-2-cyanopyridine as measured by TLC analysis using hexane/ethyl acetate (6:3) as the mobile phase and UV 435 nm to visualize the reaction components. The reaction mixture is cooled to room temperature and combined with water (500 mL). The mixture is cooled to 0° C. to 5° C. and stirred for 3 hours. The resulting solid is collected by filtration and washed with water, then hexane. The resulting cake is then dried in vacuo at 40° C. to afford the desired product.

reactant | 5-(3-fluorophenyl)-3-chloro-2-cyanopyridine | FC=1C=C(C=CC1)C=1C=C(C(=NC1)C#N)Cl | C12H6ClFN2
reactant | sodium methoxide | 40 mmol, 13.8 mL, 9.28 g | C[O-].[Na+]
reactant | methanol | 200 mL | CO | CH4O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | water | 500 mL | O | H2O
product | 5-(3-fluorophenyl)-3-methoxy-2-cyanopyridine | FC=1C=C(C=CC1)C=1C=C(C(=NC1)C#N)OC | C13H9FN2O
